US05552552
(R)--(-)-5-amino-2,4,6,7-tetramethyl-2-(4-phenylpiperidinomethyl )-2,3-dihydrobenzo [b]furan (860 mg) was dissolved in methanol and to the solution was added 25% hydro bromide in acetic acid solution (0.5 ml) and then concentrated. The residue was dissolved in methanol and left. The resulting crystal was collected by filtration and washed with ethanol to yield 810 mg of (R)--(-)-5-amino-2,4,6,7-tetramethyl-2-(4-phenylpiperidino-methyl)-2,3-dihydrobenzo [b]furan dihydrobromide.

reactant | (R)--(-)-5-amino-2,4,6,7-tetramethyl-2-(4-phenylpiperidinomethyl )-2,3-dihydrobenzo [b]furan | 860 mg | NC1=C(C2=C(O[C@](C2)(CN2CCC(CC2)C2=CC=CC=C2)C)C(=C1C)C)C | C24H32N2O
reactant | hydro bromide | Br | BrH
solvent | methanol | CO | CH4O
solvent | acetic acid | 0.5 ml | C(C)(=O)O | C2H4O2
product | (R)--(-)-5-amino-2,4,6,7-tetramethyl-2-(4-phenylpiperidino-methyl)-2,3-dihydrobenzo [b]furan dihydrobromide | 810 mg | Br.Br.NC1=C(C2=C(O[C@](C2)(CN2CCC(CC2)C2=CC=CC=C2)C)C(=C1C)C)C | InChI=1S/C24H32N2O.2BrH/c1-16-17(2)23-21(18(3)22(16)25)14-24(4,27-23)15-26-12-10-20(11-13-26)19-8-6-5-7-9-19;;/h5-9,20H,10-15,25H2,1-4H3;2*1H/t24-;;/m1../s1
